US07449586B2
(R)-2-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamido)-3-(7-methyl-1H-indazol-5-yl)propanoic acid
A stirred solution of (R)-methyl-2-(4-(2-oxo-1,2-dihydroquinazolin-3 (4H)-yl)piperidine-1-carboxamido)-3 (7-methyl-1H-indazol-5-yl)propanoate (2.24 g, 4.57 mmol) in 1:1 tetrahydrofuran/methanol (25 mL) was cooled to 0° C. To this mixture was added 2N lithium hydroxide (11.4 mL, 22.8 mmol) in several portions. The reaction mixture was stirred at room temperature for 4.5 h, and then more lithium hydroxide solution (2 mL) was added. Stirring was continued for a further 3 h, and then the mixture was stored at 0° C. overnight. The mixture was concentrated in vacuo and the resulting residue was dissolved in water, cooled to 0° C., and treated with cold 6N hydrochloric acid at 0° C. until pH 2 was attained. The resulting precipitate was collected by filtration, washed with cold water and ether, and then dried under high vacuum overnight to give 1.53 g (80%) as a white solid. Mass spec.: 477.31 (MH)+. HPLC tR=1.87.

reactant | (R)-methyl-2-(4-(2-oxo-1,2-dihydroquinazolin-3 (4H)-yl)piperidine-1-carboxamido)-3 (7-methyl-1H-indazol-5-yl)propanoate | 4.57 mmol, 2.24 g | COC([C@@H](CC=1C=C2C=NNC2=C(C1)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C26H30N6O4
reactant | lithium hydroxide | 22.8 mmol, 2N, 11.4 mL | [OH-].[Li+]
reactant | lithium hydroxide | 2 mL | [OH-].[Li+]
solvent | tetrahydrofuran methanol | 25 mL | O1CCCC1.CO
product | (R)-2-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamido)-3-(7-methyl-1H-indazol-5-yl)propanoic acid | O=C1NC2=CC=CC=C2CN1C1CCN(CC1)C(=O)N[C@@H](C(=O)O)CC=1C=C2C=NNC2=C(C1)C | C25H28N6O4
